US09340544B2
N-(4-Chloro-phenyl)-formamide (766 mg, 4.93 mmol) was dissolved in N,N-dimethylformamide (10 mL). Sodium hydride (60% in mineral oil, 240 mg, 5.91 mmol) was added and the mixture was stirred for 30 min. 2,6-Dichloro-9-methyl-9H-purine (1.0 g, 4.93 mmol) was added and the reaction mixture was heated at 80° C. for 2 hours, cooled to room temperature and poured into water. The resulting precipitate was collected by filtration, washed with water and dried to give (2-chloro-9-methyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine (1.2 g, 4.08 mmol, 83%).

reactant | N-(4-Chloro-phenyl)-formamide | 4.93 mmol, 766 mg | ClC1=CC=C(C=C1)NC=O | C7H6ClNO
reactant | Sodium hydride | 5.91 mmol, 240 mg | [H-].[Na+]
reactant | 2,6-Dichloro-9-methyl-9H-purine | 4.93 mmol, 1.0 g | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (2-chloro-9-methyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine | 4.08 mmol, 1.2 g, 83% | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl | C12H9Cl2N5
